US06160109
Synthesis of (S)-1-(2-imidazolyl)-propan-2-ol (S)-(7)
A solution of N-tritylimidazolylpropanol (S)-(6) (2.39 g, 6.51 mmol) in 80 ml methanol containing 4.3 ml glacial acetic acid (5%) was refluxed for about 12 hours. After that time, TLC indicated disappearance of the starting materials. The mixture was concentrated in vacuo and a white precipitate appeared upon addition of 50 ml of cold distilled water. The mixture was chilled, then filtered, and the white precipitate was washed with cold distilled water (10 ml). The filtrate was then evaporated twice, and the residual yellow oil redissolved in 50 ml dry methanol and passed through the weakly basic anion exchange resin (hydroxide form) IRA-68. The solution was then evaporated to yield a solid residue that could be recrystallized from a mixture of methanol and ethyl acetate. yield: 0.80 g, 98% of pure (S)-(7). m.p. 119-121° C.; 1H NMR (200 Mhz, CD3OD) δ 6.96 (s, 2H, NCHCHN); 3.96 (m, 1H, CHCH3); 2.4-2.65 (ABX, 3JHa-Hx =6.3Hz, 3JHb-HX =6.7Hz, 3JHa-Hb =14.5Hz, CH2); 0.87 (d, 3H, 3JH-H =6.3Hz, CH3); 13C NMR (50MHz, CD3OD) δ 145.8 (s, CH2CNH); 121.2 (d, NCH=CHNH); 67.1 (d, CHOH); 38.4 (t, CH2); 23.1 (q, CH3); MS (CI): [M+1]+. 127.

reactant | N-tritylimidazolylpropanol | 6.51 mmol, 2.39 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)C(CC)O | C25H24N2O
reactant | methanol | 80 ml | CO | CH4O
product | (S)-1-(2-imidazolyl)-propan-2-ol | N1C(=NC=C1)C[C@H](C)O | C6H10N2O
